US04160036
(a) 1-(Chloromethyl)-4-(trifluoromethyl)benzene
Thionyl chloride (15.0 g) was added to 4-(trifluoromethyl)benzenemethanol (15.0 g) over 30 min. The mixture was heated at reflux for 2 hr and then evaporated. The residue was distilled to afford the product as a colourless liquid b.p. 88°-92°/14 mm (11.0 g).

reactant | Thionyl chloride | 15.0 g | S(=O)(Cl)Cl | Cl2OS
reactant | 4-(trifluoromethyl)benzenemethanol | 15.0 g | FC(C1=CC=C(C=C1)CO)(F)F | C8H7F3O
product | 1-(Chloromethyl)-4-(trifluoromethyl)benzene | ClCC1=CC=C(C=C1)C(F)(F)F | C8H6ClF3
